US04612308
A solution of 0.24 g of [1R-[1alpha(R*,S*)-3abeta,4abeta,7aalpha]]-octahydro-1-[3-((1,1-dimethylethyl)-dimethylsilyloxy)-1,5-dimethyl-5-hexenyl)-7a-methyl-1H-inden-4-ol in 15 ml of dry methylene chloride was treated with 0.35 g of anhydrous sodium acetate and 0.71 g of 2,2'-bipyridinium chlorochromate and the mixture stirred at room temperature for 3 hours. After this time an additional 0.355 g of 2,2'-bipyridinium chlorochromate was added. The mixture was stirred 2 hours then 1 ml of isopropanol was added, mixture stirred for 20 minutes then diluted with water and extracted with ether/ethyl acetate 1:1. The combined organic phases were washed with water, then brine, dried over anhydrous sodium sulfate, filtered and the solvents removed in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (4:1) to give 0.238 g of pure [1R-[1alpha(R*,S*)-3abeta,7aalpha]]octahydro-1-[3-((1,1-dimethylethyl)-dimethylsilyloxy)-1,5-dimethyl-5-hexenyl)-7a-methyl-1H-inden-4-one.

reactant | octahydro-1-[3-((1,1-dimethylethyl)-dimethylsilyloxy)-1,5-dimethyl-5-hexenyl)-7a-methyl-1H-inden-4-ol | CC(C)(C)[Si](OC(CC(C)C1CCC2C(CCCC12C)O)CC(=C)C)(C)C | C24H46O2Si
reactant | sodium acetate | 0.35 g | C(C)(=O)[O-].[Na+]
reactant | 2,2'-bipyridinium chlorochromate | 0.71 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=C(C=CC=C1)C1=[NH+]C=CC=C1.[Cr](=O)(=O)([O-])Cl
reactant | 2,2'-bipyridinium chlorochromate | 0.355 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=C(C=CC=C1)C1=[NH+]C=CC=C1.[Cr](=O)(=O)([O-])Cl
reactant | isopropanol | 1 ml | C(C)(C)O | C3H8O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | octahydro-1-[3-((1,1-dimethylethyl)-dimethylsilyloxy)-1,5-dimethyl-5-hexenyl)-7a-methyl-1H-inden-4-one | CC(C)(C)[Si](OC(CC(C)C1CCC2C(CCCC12C)=O)CC(=C)C)(C)C | C24H44O2Si
